US08053588B2
A mixed solution containing dist. THF and dist. MeOH (dist. THF/dist. MeOH=3/1: 4 mL) as well as dist. H2O (0.1 mL) were added to and dissolved into 3,6-bis(trimethylsilylethynyl)-9-methylcarbazole (173 mg, 0.46 mmol) obtained in Synthesis example 12. Then, NaOH (35 mg, 0.88 mmol) was added, and the resultant mixed solution was stirred under a nitrogen atmosphere at room temperature for 4 hours to obtain a reaction mixture. After that, the reaction mixture was diluted with CH2Cl2. Then, an organic layer was washed with dist. H2O and sat. NaCl, and was dried with MgSO4. The dried organic layer was filtered and concentrated to obtain a crude product. Subsequently, the obtained crude product was separated and purified by silica gel column chromatography (hexane/EtOAc=5/1) to obtain 3,6-diethynyl-9-methylcarbazole (86 mg, 81% yield).

reactant | THF | C1CCOC1 | C4H8O
reactant | MeOH | 4 mL | CO | CH4O
reactant | 3,6-bis(trimethylsilylethynyl)-9-methylcarbazole | 0.46 mmol, 173 mg | C[Si](C)(C)C#CC=1C=CC=2N(C3=CC=C(C=C3C2C1)C#C[Si](C)(C)C)C | C23H27NSi2
reactant | NaOH | 0.88 mmol, 35 mg | [OH-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | H2O | 0.1 mL | O | H2O
product | 3,6-diethynyl-9-methylcarbazole | 86 mg, 81% yield | C(#C)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C#C)C | C17H11N
